US07772411B2
Preparation of (1-Benzyl-2-hydroxy-3-isobutylamino-propyl)-carbamic acid tert-butyl ester
To 154.4 Kg isobutylamine, (1-Oxiranyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester (53.3 Kg) was added, and then the solution was heated under reflux. Under reduced pressure, isobutylamine was removed from the reaction mixture, and then replaced by toluene.

reactant | isobutylamine | 154.4 Kg | C(C(C)C)N | C4H11N
reactant | (1-Oxiranyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester | 53.3 Kg | C(C)(C)(C)OC(NC(CC1=CC=CC=C1)C1OC1)=O | C15H21NO3
product | (1-Benzyl-2-hydroxy-3-isobutylamino-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(CNCC(C)C)O)CC1=CC=CC=C1)=O | C19H32N2O3
